US05049572
Preparation of N-(5-Carboxy- 2-methoxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide
A solution of 5.06g (0.02 mole) of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in 100 ml of 1,2-dimethoxyethane was mixed with a solution of 6.69g (0.04 mole) of 3-amino-4-methoxybenzoic acid in 125 ml of 1,2-dimethoxyethane, and the mixture was stirred at 25° C. for about 16 hours. The reaction mixture was heated gently for 30 minutes and then allowed to cool before being filtered to remove the hydrochloride salt of the excess starting amine. The filtrate was concentrated under vacuum and then diluted with water. The resulting precipitate was collected and was then recrystallized three times from a mixture of ethanol and water to give 1.9g of white solid N-(5-carboxy-2-methoxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide, m.p. 259°-261° C. Analysis: Calculated for C23H29NO5 : %C, 69.2; %H, 7.3; %N, 3.5; Found: %C, 69.3; %H, 7.3; %H, 3.6.

reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | 0.02 mole, 5.06g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | 3-amino-4-methoxybenzoic acid | 0.04 mole, 6.69g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 125 ml | COCCOC | C4H10O2
product | N-(5-Carboxy- 2-methoxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide | 1.9g | C(=O)(O)C=1C=CC(=C(C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)OC | C23H29NO5
